US04182790
N-(α-methylnonyl)acrylamide
Following a procedure analogous to that of Example 1, treat acrylonitrile with 1-decene in the presence of phenothiazine and 83% sulfuric acid to obtain the title product.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 1-decene | C=CCCCCCCCC | C10H20
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-(α-methylnonyl)acrylamide | CC(CCCCCCCC)NC(C=C)=O | C13H25NO
